US05073556
A solution of 24.7 g (0.1 mole) of 1-benzyl-3-ethoxycarbonyl-4-pyrrolidone in 135 ml of ethanol was added dropwise at room temperature to a solution of 34.7 g (0.5 mole) of hydroxylamine hydrochloride dissolved in 135 ml of water, and then 28.1 g (0.265 mole) of sodium carbonate were added to the mixture. The mixture was then stirred at room temperature for 6.5 hours, after which it was extracted with 300 ml of chloroform. The chloroform extract was washed with water and dried over anhydrous sodium sulfate. It was then concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel using a 2:1 by volume mixture of toluene and ethyl acetate as the eluent, to afford 15.8 g of 1-benzyl-3-ethoxycarbonyl-4-hydroxyiminopyrrolidine as a brown oil.

reactant | 1-benzyl-3-ethoxycarbonyl-4-pyrrolidone | 0.1 mole, 24.7 g | C(C1=CC=CC=C1)N1CC(C(C1)=O)C(=O)OCC | C14H17NO3
reactant | hydroxylamine hydrochloride | 0.5 mole, 34.7 g | Cl.NO
reactant | sodium carbonate | 0.265 mole, 28.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 135 ml | C(C)O | C2H6O
solvent | water | 135 ml | O | H2O
product | 1-benzyl-3-ethoxycarbonyl-4-hydroxyiminopyrrolidine | 15.8 g | C(C1=CC=CC=C1)N1CC(C(C1)=NO)C(=O)OCC | C14H18N2O3
